US05681838
Methyl 4-tert-butoxycarbonylamidinocinnamate
0.86 g (8 mmol) of sodium carbonate in 20 ml of water is added, at room temperature, to 1.95 g (8.1 mmol) of methyl 4-amidinocinnamate hydrochloride and 3.5 g (16.2 mmol) of di-tert-butyl dicarbonate in 40 ml of methylene chloride. The precipitate dissolves following vigorous stirring. The organic phase is separated off, concentrated and crystallized using ether.

reactant | sodium carbonate | 8 mmol, 0.86 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 4-amidinocinnamate hydrochloride | 8.1 mmol, 1.95 g | Cl.C(N)(=N)C1=CC=C(C=CC(=O)OC)C=C1
reactant | di-tert-butyl dicarbonate | 16.2 mmol, 3.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 20 ml | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-tert-butoxycarbonylamidinocinnamate | C(C)(C)(C)OC(=O)NC(=N)C1=CC=C(C=CC(=O)OC)C=C1 | C16H20N2O4
